US04977146
STEP 16G: trans-2-[3-(2-Hydroxyethylsulfonyl)-4,5-di-n-propoxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran.
A mixture of trans-2-[3-(2-hydroxyethylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran (366 mg, 0.74 mmol), n-propyl bromide (0.12 mL, 1.33 mmol) and potassium carbonate (255 mg, 1.85 mmol) in DMF (3 mL) was heated at 75° C. for 1 h. The reaction mixture was cooled and partitioned between ethyl ether and water, and the aqueous layer was re-extracted with ether (2 x). The organic extracts were combined, dried, and evaporated to dryness. The residue was purified by chromatography to give the title compound: Rf 0.43 (hexane-ethyl acetate; 1:2, v/v); NMR (CDCl3) δ 1.05 & 1.09 (2 t, J=7.5 Hz, 2 CH2CH2CH3), 2.85 (t, J=6.5 Hz, OH), 3.65 (m, SO2CH2), 3.95 (m, SO2CH2CH2); 4.03 & 4.15 (2 t. J=6.5 Hz, 2 CH2CH2CH3), 6.63 (s, 2 H, C5ArH), 7.27 & 7.49 (2 d, J=1.5 Hz, C2ArH).

reactant | trans-2-[3-(2-hydroxyethylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | 0.74 mmol, 366 mg | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)O)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C24H32O9S
reactant | n-propyl bromide | 1.33 mmol, 0.12 mL | CCCBr | C3H7Br
reactant | potassium carbonate | 1.85 mmol, 255 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | trans-2-[3-(2-Hydroxyethylsulfonyl)-4,5-di-n-propoxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)OCCC)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C27H38O9S
